US04798832
0.50 g (1.18 mmoles) of 3-[9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3yl]propionic acid was suspended in 20 ml of ethanol, and 3.90 ml (1.18 mmoles) of a 2% ethanolic solution of potassium hydroxide was added thereto. This suspension was stirred until a clear solution was obtained. To the resulting reaction solution was added a small amount of n-hexane. The solid matter which separated out was collected by filtration and then dried to obtain 0.40 g (73% yield) of 3-[9-(4-acetyl-3-hydroxy-2-n-propyl-phenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]propionic acid potassium salt in the form of white powder.

reactant | 3-[9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3yl]propionic acid | 1.18 mmoles, 0.50 g | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CCC(=O)O)C=C1)CCC)O | C23H24N2O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | n-hexane | CCCCCC | C6H14
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-[9-(4-acetyl-3-hydroxy-2-n-propyl-phenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]propionic acid potassium salt | 0.40 g, 73% yield | [K+].C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CCC(=O)[O-])C=C1)CCC)O | InChI=1S/C23H24N2O6.K/c1-3-5-18-19(9-8-17(14(2)26)21(18)29)31-13-16-6-4-11-25-22(16)24-12-15(23(25)30)7-10-20(27)28;/h4,6,8-9,11-12,29H,3,5,7,10,13H2,1-2H3,(H,27,28);/q;+1/p-1
